US04318986
2-methoxy-4-(α-methyl-β-nitroethenyl)-phenol was also prepared by a variation of the above procedure in which vanillin was treated with nitroethane instead of nitromethane. The conditions employed for the reaction, however, were essentially the same as those described above for nitromethylation. The α-methyl-β-nitroethenyl phenol product was obtained in 80% yield with m.p. 110°-112° and had λ max (ethanol) of 368 and λ max (TRIS 8.8) of 475 with ε of 13,100.

reactant | 2-methoxy-4-(α-methyl-β-nitroethenyl)-phenol | COC1=C(C=CC(=C1)C(=C[N+](=O)[O-])C)O | C10H11NO4
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
product | α-methyl-β-nitroethenyl phenol | 80% yield | CC(=C[N+](=O)[O-])C1=C(C=CC=C1)O | C9H9NO3
